US07645755B2
a) Trifluoromethanesulfonic acid 3,6-dihydro-2H-thiopyran-4-yl ester
A solution of tetrahydro-thiopyran-4-one (1.00 g, 8.61 mmol) in 10 ml of THF was added to a solution of LDA (2.0 M, 4.52 ml, 9.04 mmol) in 20 ml of THF at −78° C. under Ar. The mixture was warmed to RT and stirred for 0.5 h, then cooled to −78° C. again. A solution of N-phenyltrifluoromethanesulfonimide (3.42 g, 9.47 mmol) in 10 ml of THF was added. The resulting mixture was warmed to RT and stirred for 0.5 h under Ar. Treated with 200 ml of EtOAc, the mixture was washed with H2O (3×50 mL), brine (50 mL) and dried (Na2SO4). Removal of the solvent under reduced pressure followed by flash chromatography of the residue on silica gel (hexane-3% EtOAc/hexane) gave 810 mg (38%) of the title compound as a colorless oil. 1H-NMR (CDCl3; 400 MHz): δ 6.01 (m, 1H), 3.30 (m, 2H), 2.86 (dd, 2H, J=5.7, 5.7 Hz), 2.58-2.64 (m, 2H). Mass spectrum (ESI, m/z): Calcd. for C6H7F3O3S2, 249.0 (M+H), found 249.3.

reactant | tetrahydro-thiopyran-4-one | 8.61 mmol, 1.00 g | S1CCC(CC1)=O | C5H8OS
reactant | LDA | 9.04 mmol, 2.0 M, 4.52 ml | [Li+].CC(C)[N-]C(C)C
reactant | N-phenyltrifluoromethanesulfonimide | 9.47 mmol, 3.42 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | EtOAc | 200 ml | CCOC(=O)C | C4H8O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | Trifluoromethanesulfonic acid 3,6-dihydro-2H-thiopyran-4-yl ester | 810 mg, 38% | S1CCC(=CC1)OS(=O)(=O)C(F)(F)F | C6H7F3O3S2
